US07605118B2
1-cyclooct-3-enylpropan-1-one
Obtained according to the experimental procedure of Example 1 from cyclooctene (150 g, 1.36 mol), propionic anhydride (354 g, 2.72 mol) and zinc bromide (30.6 g, 0.14 mol) in 27% yield. Boiling point 60° C./80 mbar.

reactant | cyclooctene | 1.36 mol, 150 g | C1=CCCCCCC1 | C8H14
reactant | propionic anhydride | 2.72 mol, 354 g | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | zinc bromide | 0.14 mol, 30.6 g | [Br-].[Zn+2].[Br-]
product | 1-cyclooct-3-enylpropan-1-one | 27% yield | C1(CC=CCCCC1)C(CC)=O | C11H18O
